US08809371B2
Sodium borohydride (3.7 g) was added in divided portions to a methanol/isopropanol (30 ml/30 ml) solution containing (S)-tert-butyl(3-oxohexan-2-yl)carbamate (17.5 g) at room temperature, followed by stirring for 1 hour. The solvent was distilled away under reduced pressure, and water was added, followed by extraction with ethyl acetate. The obtained organic layer was washed with saturated saline and dried over anhydrous sodium sulfate, the solvent was distilled away under reduced pressure, and a white solid of tert-butyl((2S)-3-hydroxyhexan-2-yl)carbamate (17 g) was obtained.

reactant | Sodium borohydride | 3.7 g | [BH4-].[Na+]
reactant | (S)-tert-butyl(3-oxohexan-2-yl)carbamate | 17.5 g | C(C)(C)(C)OC(N[C@@H](C)C(CCC)=O)=O | C11H21NO3
solvent | methanol isopropanol | 30 ml | CO.C(C)(C)O
product | tert-butyl((2S)-3-hydroxyhexan-2-yl)carbamate | 17 g | C(C)(C)(C)OC(N[C@@H](C)C(CCC)O)=O | C11H23NO3
